data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21](C)P(OC)(OC)Br.C[OH:10]>>COP(OC)([O:21]C)Br.[H:20][OH+:10]C 10=20;20,21=21
C[CH:20]([NH:10]O)[OH2+:21]>>C[CH:20]=[NH+:10]O.[OH2:21] 10=20;20,21=21
[H:20][O+:21](C1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)CC)C(CNC(=O)OC(C)(C)C)([N+]6=CC=C(C=C6)N(C)C)[O-].CN(C)C1=CC=[N:10]C=C1.CC(C)NC(=O)NC(C)C.CC(C)(C)OC(=O)NCC(=O)[O-]>>[H:20][N+:10]1=CC=C(C=C1)N(C)C.CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)[O:21]C(CNC(=O)OC(C)(C)C)([N+]6=CC=C(C=C6)N(C)C)[O-].CC(C)NC(=O)NC(C)C.CC(C)(C)OC(=O)NCC(=O)[O-] 10=20;20,21=21
[H:20][CH2:21][C:22](=[N+:23](CC)CC)C.CC[NH:10]CC>>[H:20][NH+:10](CC)CC.CC[N:23](CC)[C:22](=[CH2:21])C 10=20;22,23=23;20,21=21,22
CC[OH:10].[CH2:20]=[CH:21][C:22]#[NH+:23]>>CC[OH+:10][CH2:20][CH:21]=[C:22]=[NH:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CCN(CC)C(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)N(CC)CC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]C(CCCOCC1=CC=CC=C1)(C2=[N+](C(=C(S2)CCO)C)CCC3=CC=C(C=C3)C[N+]4=CSC(=C4C)CCO)C([CH:10]=[C:11](C5=CC=CC=C5)[O-:12])C6=CC=CC=C6.CC[NH+](CC)CC.CCO.[Br-]>>[H:20][CH:10](C(C1=CC=CC=C1)C(CCCOCC2=CC=CC=C2)(C3=[N+](C(=C(S3)CCO)C)CCC4=CC=C(C=C4)C[N+]5=CSC(=C5C)CCO)[O-:21])[C:11](=[O:12])C6=CC=CC=C6.CC[NH+](CC)CC.CCO.[Br-] 10,11=10,20;20,21=21;12=11
CC1=C(C=C2C(=C1)N(C=C(C2=O)C(=O)O)CN3CC[N+:23](CC3)([CH2:22][C:21]4=[C:20](OC(=O)O4)C)[O-:10])F.C1=CC(=CC(=C1)C(=O)O)Cl>>CC1=C(C=C2C(=C1)N(C=C(C2=O)C(=O)O)CN3CC[N:23](CC3)[O:10][C:20]4([C:21](=[CH2:22])OC(=O)O4)C)F.C1=CC(=CC(=C1)C(=O)O)Cl 10=20;22,23=23;20,21=21,22
[B-]([O:12][C:11](=[CH:10]C1=CC=C(C=C1)O)C2=C(C=C(C=C2O)O)O)(F)(F)F.C[N+:21](=[CH:20]Cl)C.CC[OH+]CC.O=P(Cl)(Cl)Cl>>[B-]([O+:12]=[C:11](C1=C(C=C(C=C1O)O)O)[CH:10](C2=CC=C(C=C2)O)[CH:20]([N:21](C)C)Cl)(F)(F)F.CC[OH+]CC.O=P(Cl)(Cl)Cl 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(COC2C(C1N=[N+]=[N-])OC(C2OCC3=CC=C(C=C3)OC)C4=C(N=C(N=C4)OC)OC)[O:22][I+:23]5(C6=C(C=CC=C6)C(=O)O5)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.COC1=CC=C(C=C1)COC2C3C(C([C:21](=[O:22])CO3)N=[N+]=[N-])OC2C4=C(N=C(N=C4)OC)OC.CC(=O)O 10=20;22,23=23;20,21=21,22
[H:20][OH:21].CC12CCC(=O)C(C1(CCC2=O)[O-:10])CCC3=CC(=CC=C3)OC>>[H:20][O:10]C12CCC(=O)C1(CCC(=O)C2CCC3=CC(=CC=C3)OC)C.[OH-:21] 10=20;20,21=21
CC1(OC(C(O1)C(C(O)SC)OCC2=CC=CC=C2)C([CH:20]([OH:10])[SH+:21]C)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)[O-]>>CC1(OC(C(O1)C(C(O)SC)OCC2=CC=CC=C2)C([CH:20]=[OH+:10])OCC3=CC=CC=C3)C.C[SH:21].C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N+]4(C)[C:20](=[N-:10])[Br:21])C(O2)C(=O)C(C5)C6=CC=CC=C6)OC(=O)C)C=C1>>CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N+]4(C)[C:20]#[N:10])C(O2)C(=O)C(C5)C6=CC=CC=C6)OC(=O)C)C=C1.[Br-:21] 10=20;20,21=21
[CH:20]#[N:21].[C-:10]#N.O>>[CH:20](=[N-:21])[C:10]#N.O 10=20;20,21=21
CC[CH+:20]C=CC.[OH2:10]>>CC[CH:20](C=CC)[OH2+:10] 10=20,
[CH3:20][O:21][PH+:22](I)I.[I-:10]>>[CH3:20][I:10].[O:21]=[PH:22](I)I 10=20;20,21=21,22
CC(=N[OH:10])C.CC(=O)O[C:20](=[O:21])C>>CC(=N[OH+:10][C:20](C)([O-:21])OC(=O)C)C 10=20;20,21=21
C[C:10]1(CCC[OH+:11]1)C2=CC=CC=C2.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C[C+:10](CCC[OH:11])C1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10,11=11
C[Si-:11](C)(C)([C:10]1=[C:20](C=CC=C1)[O:21]S(=O)(=O)C(F)(F)F)F>>C(F)(F)(F)S(=O)(=O)[O-:21].C1=C[C:10]#[C:20]C=C1.C[Si:11](C)(C)F 10,11=10,20;20,21=21
[H:20][OH2+:21].C[N-:12][CH:11]=[CH:10]CC1=CC=CC=C1>>[H:20][CH:10](CC1=CC=CC=C1)[CH:11]=[N:12]C.[OH2:21] 10,11=10,20;20,21=21;12=11
CCC1CC2(CCCCC2=C)C[C:20](O1)([OH2+:21])[OH:10]>>CCC1CC2(CCCCC2=C)C[C:20](=[OH+:10])O1.[OH2:21] 10=20;20,21=21
CCS[C:20](C=C)([O-:10])[Cl:21]>>CCS[C:20](=[O:10])C=C.[Cl-:21] 10=20;20,21=21
CC[NH2+:21][C:20](C)(N)[OH:10]>>CC[NH2:21].C[C:20](=[OH+:10])N 10=20;20,21=21
[HH].CC1CC2C3(COC(O2)(C)C)C(CCCC3C1(C)C4CC5CCOC5O4)C[O-:10].[C:20](=[S:21])=S.[Na+]>>[HH].CC1CC2C3(COC(O2)(C)C)C(CCCC3C1(C)C4CC5CCOC5O4)C[O:10][C:20](=S)[S-:21].[Na+] 10=20;20,21=21
[H:20][OH2+:21].[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4NN=[O:10])OC>>[H:20][O+:10]=NNC1=C(C=CC2=C1CCC3C2CCC4(C3CCC4=O)C)OC.[B-](F)(F)(F)F.[OH2:21] 10=20;20,21=21
CCCCCC(C(=O)OCCC)[N-][N+:21]#[N:20].C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.[OH3+]>>CCCCCC(C(=O)OCCC)[N-][N:21]=[N:20][P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[OH3+] 10=20;20,21=21
CCCC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COC)O>>CCCC1=CC=C[N:21]=C1.COCC1C(C[CH:20]=[O+:10]1)O 10=20;20,21=21
[H:20][C:21]12[CH+:22]C=CC=C1CCNC2(CC)OP(=O)(Cl)Cl.CC1=[N:10]CCC2=CC=CC=C12.[Cl-]>>[H:20][N+:10]1=C(C2=CC=CC=C2CC1)C.CCC1([C:21]2=[CH:22]C=CC=C2CCN1)OP(=O)(Cl)Cl.[Cl-] 10=20;20,21=21,22
CCC[C:20]([N+]1=CC=C(C=C1)N(C)C)([O-:10])[O:21]C(=O)C.CCN(CC)CC.CC(C)(C)O>>CCC[C:20](=[O:10])[N+]1=CC=C(C=C1)N(C)C.CC(=O)[O-:21].CCN(CC)CC.CC(C)(C)O 10=20;20,21=21
CC1CC(=N[OH:10])C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C.C(=O)(C(F)(F)F)O[C:20](=[O:21])C(F)(F)F>>CC1CC(=N[OH+:10][C:20](C(F)(F)F)([O-:21])OC(=O)C(F)(F)F)C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C 10=20;20,21=21
C[S+:21](=O)(C)[CH2:20]C[O-:10]>>C1[CH2:20][O:10]1.C[S:21](=O)C 10=20;20,21=21
CC(C)C(C)[Cl:10].[Al:20](Cl)(Cl)Cl>>CC(C)C(C)[Cl+:10][Al-:20](Cl)(Cl)Cl 10=20,
